US07452886B2
A. 2-Prop-2-ynyl-naphthalene
To a suspension of Mg powder (5.3 mmol) and one piece of iodine in THF (4 ml) is added 2-bromonaphthalene (4.6 mmol) in THF (2 ml) at room temperature and the mixture is stirred at 85° C. for 0.5 h. Copper(I) bromide (0.32 mmol) is added at room temperature then methoxyallene (4.6 mmol) in THF (3 ml) is added at 0° C. and the mixture is stirred at room temperature for 2 h. The mixture is poured into saturated ammonium chloride, extracted with AcOEt. The organic layer is washed with brine, dried over sodium sulfate and concentrated. Chromatography on silica gel (n-hexane:AcOEt=20:1) gives the product in 18% yield. Rf=0.5 (n-hexane:AcOEt=10:1)

reactant | iodine | II | I2
reactant | 2-bromonaphthalene | 4.6 mmol | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | methoxyallene | 4.6 mmol | COC=C=C | C4H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | Copper(I) bromide | 0.32 mmol | [Cu]Br
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 2-Prop-2-ynyl-naphthalene | 18% yield | C(C#C)C1=CC2=CC=CC=C2C=C1 | C13H10
